US06069149
5.41 g (28.74 mmol) of N-(tert-butoxycarbonyl)-1,4-diaminobutane was dissolved in 100 ml of 1,4-dioxane and 4.86 g (28.74 mmol) of N-carboethoxyphthalimide was added thereto. The mixture was heated at 45 to 60° C. and stirred for 4 hours. After the reaction mixture was concentrated under reduced pressure, 1N hydrochloric acid was added thereto and the resulting solution was extracted with ethyl acetate. The extract was washed with brine and dried (Na2SO4). The solvent was distilled off and the residue was purified by silica gel column chromatography (chloroform:methanol=200:1 (v/v)) to obtain 5.40 g (16.96 mmol) of N-[4-(tert-butoxycarbonylamino)butyl]phthalimide as a white solid. Its spectroscopic data are as follows:

reactant | N-(tert-butoxycarbonyl)-1,4-diaminobutane | 28.74 mmol, 5.41 g | C(C)(C)(C)OC(=O)NCCCCN | C9H20N2O2
reactant | N-carboethoxyphthalimide | 28.74 mmol, 4.86 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-[4-(tert-butoxycarbonylamino)butyl]phthalimide | 16.96 mmol, 5.40 g | C(C)(C)(C)OC(=O)NCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H22N2O4
